US09216173B2
A mixture of 2-chloro-5-methyl-5,6,7,8-tetrahydroquinolin-5-ol (306 mg, 1.55 mmol), Xantphos (107 mg, 0.185 mmol), tris(dibenzylideneacetone)dipalladium(0) (71 mg, 0.077 mmol), cesium carbonate (1.01 g, 3.09 mmol), and benzophenone imine (0.272 mL, 1.63 mmol) in 1,4-dioxane (10 ml) under an argon atmosphere was heated at 100° C. in an oil bath for 6 hours. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate (40 mL), saturated aqueous sodium bicarbonate solution (10 mL), and brine (20 mL). The layers were separated and the organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (10-80% ethyl acetate/hexanes linear gradient) to afford 2-[(diphenylmethylidene)amino]-5-methyl-5,6,7,8-tetrahydroquinolin-5-ol. MS ESI calc'd. for C23H23N2O [M+H]+ 343. found 343.

reactant | 2-chloro-5-methyl-5,6,7,8-tetrahydroquinolin-5-ol | 1.55 mmol, 306 mg | ClC1=NC=2CCCC(C2C=C1)(O)C | C10H12ClNO
reactant | Xantphos | 0.185 mmol, 107 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 3.09 mmol, 1.01 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzophenone imine | 1.63 mmol, 0.272 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | brine | 20 mL | [Cl-].[Na+].O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.077 mmol, 71 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-[(diphenylmethylidene)amino]-5-methyl-5,6,7,8-tetrahydroquinolin-5-ol | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC1=NC=2CCCC(C2C=C1)(O)C | C23H22N2O
